US07709468B2
8-Chloro-2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)imidazo[1,2-a]pyrazine
To a solution of 3-chloropyrazin-2-ylamine (1.3 g, 10 mmol) in 1-methyl-2-pyrrolidinone (1 mL) heated to about 150° C. was added dropwise over about 15 min a solution of 2-bromo-1-(4-fluorophenyl)-2-(2-methylsulfanylpyrimidin-4-yl)ethanone (prepared according to WO2003000682; 0.34 g, 1 mmol) in 1-methyl-2-pyrrolidinone (1 mL). After about 30 min of stirring at about 150° C., the mixture was cooled to ambient temperature, diluted with DCM, extracted three times with 1N HCl and six times with 2N NaOH. The organic layer was dried over Na2SO4 and concentrated. The crude material was purified by silica gel chromatography with heptane/EtOAc (stepwise gradient, 5:1, 3:1) to give 0.019 g (5%) of the title compound: LC/MS (Table 1, Method b) Rt=2.28 min; MS m/z: 372.2 (M+H)+.

reactant | 3-chloropyrazin-2-ylamine | 10 mmol, 1.3 g | ClC=1C(=NC=CN1)N | C4H4ClN3
reactant | 2-bromo-1-(4-fluorophenyl)-2-(2-methylsulfanylpyrimidin-4-yl)ethanone | 1 mmol, 0.34 g | BrC(C(=O)C1=CC=C(C=C1)F)C1=NC(=NC=C1)SC | C13H10BrFN2OS
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 8-Chloro-2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)imidazo[1,2-a]pyrazine | 0.019 g, 5% | ClC=1C=2N(C=CN1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)SC | C17H11ClFN5S
